US08535974B2
Synthesis of N-(3-(1,3-dioxolan-2-yl)phenyl)-3-methylaniline
To a clean and dry 500 ml round bottom flask equipped with a reflux condenser and magnetic stir bar nitrogen was purged and anhydrous toluene (250.0 ml) was added by cannula. m-toluidine (5.1 ml, 0.0467 mol) was added to the reaction flask by syringe. Next, 2-(3-bromophenyl)-1,3-dioxolane (7.8 ml, 0.0513 mol) was added by syringe. The reaction solution was purged with a strong nitrogen flow for 30 minutes. Sodium tert-butoxide (6.73 g, 0.0701 mol) and Pd2dba3 (0.85 g, 0.0009 mol) were then added manually, followed by the addition of tri-tert-butylphosphine (0.57 g, 0.0028 mol) in toluene (˜8 ml) via syringe. The vessel was heated to reflux for approximately 4 hours. The reaction was then cooled to room temperature and filtered through a Celite and silica gel pad. Solvent was removed by rotary evaporation. The crude material was partially dissolved in a 10% ethyl acetate/hexane solution (20.0 ml) and purified by flash column chromatography providing near pure product. Further purification was carried out using an automatic column chromatography system using 5% ethyl acetate/hexane as an eluent. This provided pure product confirmed by NMR.

reactant | m-toluidine | 0.0467 mol, 5.1 ml | NC1=CC(=CC=C1)C | C7H9N
reactant | 2-(3-bromophenyl)-1,3-dioxolane | 0.0513 mol, 7.8 ml | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | Sodium tert-butoxide | 0.0701 mol, 6.73 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphine | 0.0028 mol, 0.57 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | ˜8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.0009 mol, 0.85 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(1,3-dioxolan-2-yl)phenyl)-3-methylaniline | O1C(OCC1)C=1C=C(C=CC1)NC1=CC(=CC=C1)C | C16H17NO2
